US06809105B2
3-bromo-5-cyanopyridine
Phosphorus oxychloride (5 ml) was added to 5-bromonicotinamide (2 g, 10 mmol, Avocado Research Chemicals, Ltd.) and the mixture was heated to gentle reflux for 3 hours. The mixture was allowed to cool to room temperature, poured onto ice (100 g) and extracted with ethyl acetate (3×100 mL). The combined extracts were washed successively with aqueous ammonium hydroxide and water, dried (MgSO4), filtered and the filtrate concentrated under reduced pressure. The residue was purified by chromatography (SiO2, ethyl acetate:hexanes, 1:1) to provide the title compound (1.5 g, 82% yield). MS (DCI/NH3) m/z 184 (M+H)+.

reactant | Phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-bromonicotinamide | 10 mmol, 2 g | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
product | 3-bromo-5-cyanopyridine | 1.5 g, 82% yield | BrC=1C=NC=C(C1)C#N | C6H3BrN2
